US08497264B2
To a suspension of 7-bromo-1-fluoro-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridin-5-one (1000 mg, 2.63 mmol) in THF (25 mL) at −40° C. was added drop wise ((trimethylsilyl)methyl)lithium (1.0M solution in pentane; 3.95 mL, 3.95 mmol). After 10 min, TFA (0.304 mL, 3.95 mmol) was added drop wise and the reaction mixture was allowed to warm to rt Additional 1 ml of TFA was added and the reaction mixture was allowed to stir for 1 hour at P. An aqueous, saturated K2CO3 solution was added, followed by EtOAc. The organic phase was separated and dried over Na2SO4. The solvent was removed under reduced pressure to yield 7-bromo-1-fluoro-5-methylene-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridine as a yellow solid (995 mg), which was used in the next step without further purification.

reactant | 7-bromo-1-fluoro-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridin-5-one | 2.63 mmol, 1000 mg | BrC=1C=C2C(C3=C(C(=NC(=C3)OCC(C)(C)C)F)OC2=CC1)=O | C17H15BrFNO3
reactant | ((trimethylsilyl)methyl)lithium | 3.95 mmol, 1.0M, 3.95 mL | C[Si](C)(C)C[Li]
reactant | TFA | 3.95 mmol, 0.304 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-bromo-1-fluoro-5-methylene-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridine | 995 mg | BrC=1C=C2C(C3=C(C(=NC(=C3)OCC(C)(C)C)F)OC2=CC1)=C | C18H17BrFNO2
